US09326987B2
6-(1H-Indol-4-yl)-4-{5-[2-(methyloxy)ethyl]-1,3,4-oxadiazol-2-yl}-1H-indazole
6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole (1:1) (75 mg, 0.127 mmol) and 3-(methyloxy)propanoyl chloride (31.2 mg, 0.255 mmol, available from Fluorochem) in chloroform (2 ml), were heated under microwave irradiation at 100° C. for 1 h. The solvent was blown off and the residue dissolved in isopropanol (2 ml) and 2M sodium hydroxide (1 ml) and stirred at RT for 2 h. The solvent was removed and the residue purified by column chromatography, on silica (20 g cartridge), eluting with 0-100% ethylacetate/cyclohexane followed by 0-25% methanol/dichloromethane. Further purification by Mass Directed Automated Preparative HPLC afforded the title compound (3 mg).

reactant | 6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole 6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole | 0.127 mmol, 75 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=NN=NN1.N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=NN1
reactant | 3-(methyloxy)propanoyl chloride | 0.255 mmol, 31.2 mg | COCCC(=O)Cl | C4H7ClO2
reactant | sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 6-(1H-Indol-4-yl)-4-{5-[2-(methyloxy)ethyl]-1,3,4-oxadiazol-2-yl}-1H-indazole | 3 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CCOC | C20H17N5O2
